US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (45 70001712)
A mixture of 0.9 g (4 mmol) of 2-chloro-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide, 0.7 g (4 mmol) of potassium iodide, 0.6 ml (4 mmol) of triethylamine, 0.53 ml (3 mmol) of 4-benzyl-piperidine and 50 ml of acetonitrile is refluxed for 20 hours. The reaction mixture is concentrated and 30 ml of water and 30 ml of chloroform are added to the residue. The organic layer is separated and the water phase is extracted three times with 10 ml of chloroform. The combined organic layers are dried over sodium sulfate, concentrated and the residue is treated with diethylether and the precipitated crystals are filtered off to yield 0.7 g (64%) of the title compound. Melting Point: 176-180° C. (diethylether)

reactant | 2-chloro-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 4 mmol, 0.9 g | ClCC(=O)NC=1C=C2CC(NC2=CC1)=O | C10H9ClN2O2
reactant | potassium iodide | 4 mmol, 0.7 g | [I-].[K+]
reactant | triethylamine | 4 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzyl-piperidine | 3 mmol, 0.53 ml | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(4-Benzyl-piperidin-1-yl)-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 0.7 g, 64% | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NC=1C=C2CC(NC2=CC1)=O | C22H25N3O2
